US08871790B2
Compound 470.1. Methyl 2-bromo-4-fluorobenzoate
Into a round-bottom flask, was placed a solution of 2-bromo-4-fluorobenzoic acid (21.8 g, 99.5 mmol, 1.00 equiv) in a solvent mixture of sulfuric acid (20 mL) and methanol (20 mL). The resulting solution was stirred for 5 h at 85° C., then cooled and cooled and concentrated in vacuo. The residue was diluted with ethyl acetate (200 mL) and washed with brine (200 mL) then aqueous NaHCO3 (100 mL. Note: gas evolution), dried (Na2SO4), filtered and concentrated in vacuo to obtain the title compound as a light yellow oil (22.0 g, 95%).

reactant | 2-bromo-4-fluorobenzoic acid | 99.5 mmol, 21.8 g, 1.00 equiv | BrC1=C(C(=O)O)C=CC(=C1)F | C7H4BrFO2
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 20 mL | CO | CH4O
product | Methyl 2-bromo-4-fluorobenzoate | 22.0 g, 95% | BrC1=C(C(=O)OC)C=CC(=C1)F | C8H6BrFO2
